US08957070B2
3-Chloro-1-(methoxymethyl)-2-(1,3-thiazol-2-yl)-1H-indole-7-amine
A mixture of 3-chloro-1-(methoxymethyl)-7-nitro-2-(1,3-thiazol-2-yl)-1H-indole (0.30 g), iron(III) chloride hexahydrate (15 mg), activated carbon (0.15 g), tetrahydrofuran (6 mL) and methanol (6 mL) was heated under reflux for 20 min. To the reaction mixture was added hydrazine monohydrate (0.27 g) while heating under reflux. The reaction mixture was heated under reflux for 2 hr, filtrated, and the filtrate was concentrated. The residue was dissolved in ethyl acetate, washed with saturated brine, dried (MgSO4) and concentrated to give the title compound (0.25 g, yield 91%) as a yellow oil.

reactant | 3-chloro-1-(methoxymethyl)-7-nitro-2-(1,3-thiazol-2-yl)-1H-indole | 0.30 g | ClC1=C(N(C2=C(C=CC=C12)[N+](=O)[O-])COC)C=1SC=CN1 | C13H10ClN3O3S
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | hydrazine monohydrate | 0.27 g | O.NN
catalyst | iron(III) chloride hexahydrate | 15 mg | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
solvent | methanol | 6 mL | CO | CH4O
product | 3-Chloro-1-(methoxymethyl)-2-(1,3-thiazol-2-yl)-1H-indole-7-amine | 0.25 g, yield 91% | ClC1=C(N(C2=C(C=CC=C12)N)COC)C=1SC=CN1 | C13H12ClN3OS
